US08859561B2
To a solution of 2,3,5,6,7,11c-hexahydro-1H-pyrido[3′,2′:4,5]pyrrolo[2,3-g]indolizine (120 mg, 0.565 mmol) in DMF (1 mL) was added a suspension of NaH (68.0 mg, 1.69 mmol) in DMF (1 mL). After stirring for 5 min at rt, a solution of 2-(6-methylpyridin-3-yl)ethyl 4-methylbenzenesulfonate (492 mg, 1.69 mmol) in DMF (1 mL) was added dropwise into the reaction mixture and stirring continued for another 2 h at RT. The progress of reaction was monitored by TLC and LCMS. The reaction mixture was diluted with water (20 mL) and extracted with EtOAc (3×25 mL). The organic layer was washed with water (3×20 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford crude material, which was purified by silica gel flash chromatography (MeOH-DCM) to yield 7-(2-(6-methylpyridin-3-yl)ethyl)-2,3,5,6,7,11c-hexahydro-1H-pyrido[3′,2′:4,5]pyrrolo[2,3-g]indolizine;

reactant | 2,3,5,6,7,11c-hexahydro-1H-pyrido[3′,2′:4,5]pyrrolo[2,3-g]indolizine | 0.565 mmol, 120 mg | C1CCN2CCC3=C(C12)C1=C(N3)N=CC=C1 | C13H15N3
reactant | NaH | 1.69 mmol, 68.0 mg | [H-].[Na+]
reactant | 2-(6-methylpyridin-3-yl)ethyl 4-methylbenzenesulfonate | 1.69 mmol, 492 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCC=1C=NC(=CC1)C | C15H17NO3S
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 7-(2-(6-methylpyridin-3-yl)ethyl)-2,3,5,6,7,11c-hexahydro-1H-pyrido[3′,2′:4,5]pyrrolo[2,3-g]indolizine | CC1=CC=C(C=N1)CCN1C2=C(C3=C1CCN1CCCC31)C=CC=N2 | C21H24N4
